US09303033B2
A (1:1) mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione (15 mg) was mixed with 3-chloroaniline (0.1 ml) in NMP (0.2 ml) and the mixture heated in a microwave oven at 120° C. for 15 min. Methanol was added and the resulting solid filtered and dried to provide (Z)-5-((2-(3-chlorophenylamino)-4-(cyclopropylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione as a solid (7 mg). LCMS (ES): >95% pure, m/z 411 [M+H]+.

reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 15 mg | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
reactant | 3-chloroaniline | 0.1 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | Methanol | CO | CH4O
solvent | NMP | 0.2 ml | CN1CCCC1=O | C5H9NO
product | (Z)-5-((2-(3-chlorophenylamino)-4-(cyclopropylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 7 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=N1)NC1CC1)N=CC2\C=C/2\C(NC(N2)=O)=O | C18H15ClN8O2
